data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_214474_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([N:4]([H:10])[H:11])=[O:8])([O:7][C:5](=[C:6]([H:16])[H:17])[H:12])[H:9]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([H:9])[C@@:5]([C:6]([C:3]([N:4]([H:10])[H:11])=[O:8])([H:16])[H:17])([H:12])[O:7]1,64.36957750002719
MR_309169_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([H:9])[H:10])([O:5][H:8])/[N:6]=[N:7]/[N:4]([H:11])[H:12]>>[C:1]([N:3]([H:9])[H:10])(=[O:5])[N:6]([C:2]([H:13])([H:14])[H:15])[N:7]([N:4]([H:11])[H:12])[H:8],65.22925249999687
MR_412302_0,[C:1]1([C:2]([N:4]([H:9])[H:10])([H:11])[H:12])([O:6][H:7])[N:3]([H:8])[O:5]1>>[C:1](=[C:2](/[N:4]([H:9])[H:10])[H:11])(\[O:5][N:3]([H:8])[H:12])[O:6][H:7],45.80938249998212
MR_294960_1,[C:1]([N:3]([H:9])[H:10])(/[N:7]=[C:4](/[C:2]([H:14])([H:15])[H:16])[O:6][C:5](=[O:8])[H:13])([H:11])[H:12]>>[C:1]([N:3]([C:5](=[O:8])[H:13])[H:10])(/[N:7]=[C:4](/[C:2]([H:14])([H:15])[H:16])[O:6][H:9])([H:11])[H:12],23.002894999992805
MR_149980_1,[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([N:4]([H:9])[H:10])[H:7])([C:5](=[O:6])[H:11])[H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])(/[N:3]=[N:4]/[H:9])([C:5]([O:6][H:10])([H:7])[H:11])[H:8],53.44166500000952
MR_684180_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([N:4]([N:6]([H:11])[H:12])[O:7][N:5]([H:9])[H:10])[H:8]>>[C@@:1]([C:2]([H:13])([H:14])[H:15])([N:4]([C:3]([H:16])([H:17])[H:18])[N:6]([H:11])[H:12])([O:7][N:5]([H:9])[H:10])[H:8],62.43248499999552
MR_621049_1,[N:1]1([H:12])[C:4]2([C:2]([O:5][H:10])=[O:9])[N:7]1[C:3]([O:6][H:11])=[N:8]2>>[n:1]1([H:12])[c:4]([C:2]([O:5][H:10])=[O:9])[n:8][c:3]([O:6][H:11])[n:7]1,12.531175000000443
MR_494011_2,[C:1]([C:2]([C:3]([C:6]([C:5]([O:8][H:11])=[O:10])([N:7]([H:13])[H:14])[N:9]([H:15])[H:22])([H:18])[H:19])([H:16])[H:17])(=[C:4]([H:20])[H:21])[H:12]>>[C:1]([C:2]([C:3](/[C:6]([N:7]([H:13])[H:14])=[N:9]/[H:15])([H:18])[H:19])([H:16])[H:17])([C:4]([H:20])([H:21])[H:22])([C:5]([O:8][H:11])=[O:10])[H:12],57.704900000018
MR_432512_0,[C:1](/[C:4](=[C:3](/[N:2]([N:5]([H:11])[H:12])[H:10])[N:6]([H:13])[H:14])[N:7]([H:15])[H:16])([O:8][H:9])([H:17])[H:18]>>[C:1](/[C:3](=[C:4](/[N:2]([N:5]([H:11])[H:12])[H:10])[N:7]([H:15])[H:16])[N:6]([H:13])[H:14])([O:8][H:9])([H:17])[H:18],62.83910500000332
MR_46678_0,[C:1]([C:4](/[C:3](=[C:5](/[C:2]([H:13])([H:14])[H:15])[H:9])[O:6][H:8])=[O:7])([H:10])([H:11])[H:12]>>[C:1]([C:4]1=[C:3]([O:6][H:8])[C@@:5]([C:2]([H:13])([H:14])[H:15])([H:9])[O:7]1)([H:10])([H:11])[H:12],61.31867249998976
MR_654885_0,[C:1](/[C:4](=[C:7](\[C:3]([H:19])([H:20])[H:21])[H:15])[O:8][H:10])(/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:9]\[H:14])([N:6]([H:12])[H:13])[H:11]>>[C:1](=[C:4](\[C:7]([C:3]([H:19])([H:20])[H:21])(/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:9]\[H:14])[H:15])[O:8][H:10])(\[N:6]([H:12])[H:13])[H:11],70.73682000000261
MR_339782_1,[C:1](/[C:5](=[C:6]([C:2]([H:16])([H:17])[H:18])\[C:4](=[C:7](/[C:3]([H:19])([H:20])[H:21])[H:12])[O:8][H:10])[O:9][H:11])([H:13])([H:14])[H:15]>>[C:1]([C@:5]1([O:9][H:11])[C:6]([C:2]([H:16])([H:17])[H:18])=[C:4]([O:8][H:10])[C@:7]1([C:3]([H:19])([H:20])[H:21])[H:12])([H:13])([H:14])[H:15],37.12101749998155
MR_421701_0,[C:1](/[C:4](=[N:3]/[H:9])[C:5]([C:2]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])[O:7][H:8])([H:12])([H:13])[H:14]>>[C:1](/[C:4]([N:3]([O:7][H:8])[H:9])=[C:5](/[C:2]([H:15])([H:16])[H:17])[N:6]([H:10])[H:11])([H:12])([H:13])[H:14],63.41828750000346
MR_399183_0,[C:1]1([O:7][H:9])([O:8][H:10])[C:5]([H:13])=[C:4]([C:3]([H:14])([H:15])[H:16])[C:2]([H:11])([H:12])[O:6]1>>[C:1](/[C:5](=[C:4](\[C:2]([O:6][H:9])([H:11])[H:12])[C:3]([H:14])([H:15])[H:16])[H:13])(=[O:7])[O:8][H:10],31.62160750002656
MR_317599_2,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:6]\[H:12])([N:4]([H:8])[H:9])([N:5]([H:10])[H:11])[H:7]>>[C:1]1([N:4]([H:8])[H:9])([H:7])[C:3]([C:2]([H:13])([H:14])[H:15])([N:5]([H:10])[H:11])[N:6]1[H:12],62.40361999996139
MR_344732_1,[C:1]([C:3]([H:15])([H:16])[H:17])(/[C:4]([O:7][H:10])=[N:8]/[O:6][H:9])([O:5][C:2]([H:12])([H:13])[H:14])[H:11]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:4](\[O:7][H:10])[N:8]([O:5][C:2]([H:12])([H:13])[H:14])[O:6][H:9])[H:11],72.5320974999643
MR_28759_0,[N:1](/[C:3](=[C:4](/[N:2]([H:7])[H:8])[H:10])[H:9])([H:5])[H:6]>>[N:1]([C:3](/[C:4](=[N:2]/[H:7])[H:10])([H:8])[H:9])([H:5])[H:6],59.441192500003766
MR_683941_1,[C:1]([C:3]([C:2]([N:4]([H:14])[H:15])([N:5]([H:16])[H:17])[H:13])=[O:9])([O:6][H:10])([O:7][H:11])[O:8][H:12]>>[C:1]([C:3]([C:2]([N:4]([H:14])[H:15])([N:5]([H:16])[H:17])[H:13])([O:8][H:12])[O:9][H:11])([O:6][H:10])=[O:7],23.034270000056267
MR_282807_2,[C@:1]1([C:3]([H:16])([H:17])[H:18])([H:11])[C@@:4]([C:2]([O:7][H:10])([H:14])[H:15])([O:6][H:9])[N:8]1[N:5]([H:12])[H:13]>>[C:1]([C:2]([O:7][H:10])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:4]([O:6][H:9])=[N:8]/[N:5]([H:12])[H:13])[H:11],56.68835000001636
MR_454206_1,[C:1]([N:2]([H:8])[H:9])(=[C:3](\[N:5]=[O:7])[H:11])/[C:4](=[N:6]\[H:10])[H:12]>>[C:1]1([N:2]([H:8])[H:9])(/[C:4](=[N:6]\[H:10])[H:12])[C:3]([H:11])=[N:5][O:7]1,37.27852000001192
